US04272449
To a refluxing solution of 2.72 g (12.9 mmol) of 2-(4-chlorophenyl)-3-methylbutyramide and 2.27 g (8.6 mmol) of 3-phenoxybenzyl bromide in a solution of 15 ml dichloromethane and 3ml ethyl ether is added a solution of 1.83 g (9.5 mmol) of silver tetrafluoroborate in ether. The mixture is refluxed for 2 hours and then separated by pouring into ice cold aqueous ethyl acetate/sodium bicarbonate. The organic phase is washed with water, dried and stripped of solvent. The residue is triturated with ether and filtered. The filtrate is concentrated and chromatographed on silica gel, eluting with 25% ethyl acetate/hexane, and then on plates using 35% ethyl acetate/hexane, to yield 3-phenoxybenzyl 2-(4-chlorophenyl)-3-methylbutanimidate, MS m/e 393 (M+).

reactant | 2-(4-chlorophenyl)-3-methylbutyramide | 12.9 mmol, 2.72 g | ClC1=CC=C(C=C1)C(C(=O)N)C(C)C | C11H14ClNO
reactant | 3-phenoxybenzyl bromide | 8.6 mmol, 2.27 g | O(C1=CC=CC=C1)C=1C=C(CBr)C=CC1 | C13H11BrO
reactant | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
catalyst | silver tetrafluoroborate | 9.5 mmol, 1.83 g | F[B-](F)(F)F.[Ag+]
solvent | ethyl ether | 3ml | C(C)OCC | C4H10O
product | 3-phenoxybenzyl 2-(4-chlorophenyl)-3-methylbutanimidate | ClC1=CC=C(C=C1)C(C(OCC1=CC(=CC=C1)OC1=CC=CC=C1)=N)C(C)C | C24H24ClNO2
